US04053615
1-n-Butyl-4-(3,6-dichlorophthalimido)piperidine
4-Amino-1-n-butylpiperidine and 3,6-dichlorophthalic anhydride are reacted in a similar manner to that described in Example 3 to give the title compound.

reactant | 4-Amino-1-n-butylpiperidine | NC1CCN(CC1)CCCC | C9H20N2
reactant | 3,6-dichlorophthalic anhydride | ClC1=C2C(C(=O)OC2=O)=C(C=C1)Cl | C8H2Cl2O3
product | 1-n-Butyl-4-(3,6-dichlorophthalimido)piperidine | C(CCC)N1CCC(CC1)N1C(C=2C(C1=O)=C(C=CC2Cl)Cl)=O | C17H20Cl2N2O2
